US07951819B2
N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)-3-tert-pentylbenzamide (CJS 3903)
Method H2 was used with 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one and 3-tert-pentylbenzoic acid to afford the title compound as a light pink solid (54 mg, 31%). 1H-NMR (δ, ppm, DMSO-d6): 0.63 (t, 3H, CH3Et, J=7.4 Hz), 1.29 (s, 6H, CH3Me), 1.66 (q, 2H, CH2Et, J=7.4 Hz), 6.49 (d, 1H, HPy,5, J=5.9 Hz), 6.90 (dd, 1H, Harom, J=7.4 Hz, J=1.7 Hz), 7.41-7.47 (m, 2H, Harom), 7.56 (d, 1H, Harom, J=7.8 Hz), 7.65-7.66 (m, 2H, Harom), 7.75 (d, 1H, Harom, J=7.7 Hz) 7.81 (d, 1H, HPy,6, J=5.9 Hz), 7.84 (s, 1H, Harom), 10.30 (s, 1H, NHamide), 11.21 (s, 1H, NHurea), 11.39 (s, 1H, NHurea). 13C-NMR (δ, ppm, DMSO-d6): 8.89 (CH3Et), 28.03 (CH3), 35.90 (C(CH3)3Et,) 37.66 (CH2Et), 106.38, 110.81, 113.58, 114.28, 116.27, 124.61, 124.89, 127.91, 129.16, 129.98, 134.30, 140.76, 141.22, 144.57, 147.02, 149.24, 154.09, 154.56, 165.97. HRMS (EI): m/z [M+H] calculated for C24H24N4O3: 417.1921, found: 417.1923.

reactant | 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one | NC=1C=C(OC2=C3C(=NC=C2)NC(N3)=O)C=CC1 | C12H10N4O2
reactant | 3-tert-pentylbenzoic acid | C(C)(C)(CC)C=1C=C(C(=O)O)C=CC1 | C12H16O2
product | N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)-3-tert-pentylbenzamide | 54 mg, 31% | O=C1NC=2C(=NC=CC2OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(C)(C)CC)=O)N1 | C24H24N4O3
